US09056887B2
A solution of 9-fluorenylmethoxycarbonyl chloride (15.22 g, 58.85 mmol) in dichloromethane (100 ml) was added over 1 h to an ice-cooled solution of 3-methylamino-1-propanol (5.25 g, 58.85 mmol) and triethylamine (9.0 ml, 64.74 mmol) in dichloromethane (50 ml). The resultant suspension was left overnight at −18° C., and then diluted with brine. The organic phase was separated, dried over MgSO4 and concentrated in vacuo. The residue was purified on silica eluting with 1:4 ethyl acetate/dichloromethane to give (9H-fluoren-9-yl)methyl 3-hydroxypropylmethylcarbamate (100% yield). p-Toluoyl chloride (4.26 g, 27.56 mmol) was added dropwise over 10 min to an ice-cooled solution of (9H-fluoren-9-yl)methyl 3-hydroxypropylmethylcarbamate (7.8 g, 25.05 mmol) in pyridine (100 ml). The resultant mixture NA as stirred for 2 h at 0° C., concentrated in vacuo and redissolved in ethyl acetate. The solution was washed with 10% citric acid and brine, then separated, dried over MgSO4 and concentrated in vacuo. The residue was purified on silica eluting with 30% ethyl acetate/hexane to give (9H-fluoren-9-yl)methyl 3-(4-methylbenzoyloxy)propylmethylcarbamate (97% yield). A solution of (9H-fluoren-9-yl)methyl 3-(4-methylbenzoyloxy)propylmethylcarbamate (0.91 g, 2.12 mmol) and triethylamine (5.0 ml) in DMF (5 ml) was stirred for 1 h at +80° C. The resultant mixture was cooled to room temperature and compound 1 (2.01 g, 1.74 mmol) was added. The reaction was diluted with DMF (5), stirred for 2 days, and then diluted with ether (100 ml). The precipitated solid was isolated by filtration, washed with ether and vacuum dried to afford compound 2b (89% yield) as a pale solid, which was sufficiently pure to be used in the next step without additional purification.

reactant | p-Toluoyl chloride | 27.56 mmol, 4.26 g | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | (9H-fluoren-9-yl)methyl 3-hydroxypropylmethylcarbamate | 25.05 mmol, 7.8 g | OCCCN(C(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)C | C19H21NO3
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | (9H-fluoren-9-yl)methyl 3-(4-methylbenzoyloxy)propylmethylcarbamate | 97% yield | CC1=CC=C(C(=O)OCCCN(C(OCC2C3=CC=CC=C3C=3C=CC=CC23)=O)C)C=C1 | C27H27NO4
